US03979381
3-(4-Chlorophenyl)-7-[(4-chlorophenyl)methylene]-2,3,3a,4,6,7-hexahydro-2-phenylthiopyrano[4,3-c]pyrazole-5,5-dioxide
A mixture of 2.0g of tetrahydro-3,5-bis-[(4-chlorophenyl)methylene]-4H-thiopyran-4-one-1,1-dioxide and 0.6g of phenyl hydrazine in 100ml of methanol is heated at reflux temperature for 2 hours and then cooled. The precipitate is collected by filtration and recrystallized from acetone/hexane to give 1.6g of the title compound, melting point 246.5°-249°C.

reactant | tetrahydro-3,5-bis-[(4-chlorophenyl)methylene]-4H-thiopyran-4-one-1,1-dioxide | 2.0g | ClC1=CC=C(C=C1)C=C1CS(CC(C1=O)=CC1=CC=C(C=C1)Cl)(=O)=O | C19H14Cl2O3S
reactant | phenyl hydrazine | 0.6g | C1(=CC=CC=C1)NN | C6H8N2
solvent | methanol | 100ml | CO | CH4O
product | 3-(4-Chlorophenyl)-7-[(4-chlorophenyl)methylene]-2,3,3a,4,6,7-hexahydro-2-phenylthiopyrano[4,3-c]pyrazole-5,5-dioxide | 1.6g | ClC1=CC=C(C=C1)C1C2C(=NN1C1=CC=CC=C1)C(CS(C2)(=O)=O)=CC2=CC=C(C=C2)Cl | C25H20Cl2N2O2S
